### PR TITLE
feat: isomorphisms of `ValueGroup₀` when the valuation is surjective

### PR DESCRIPTION
**Pull request by smmercuri**
- If `f : A →* B` is surjective then `ValueGroup₀` is order isomorphic to `B`
- Apply this to `HeightOneSpectrum.valuation` and `B = ℤᵐ⁰`

- ---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Range.lean [hunk 1]
```diff
@@ -120,6 +121,32 @@ lemma mem_valueGroup {b : Bˣ} (hb : b.1 ∈ range f) : b ∈ valueGroup f := by
 lemma inv_mem_valueGroup {b : Bˣ} (hb : b.1 ∈ range f) : b⁻¹ ∈ valueGroup f :=
   Subgroup.inv_mem _ (mem_valueGroup f hb)
 
+lemma valueGroup_eq_top_of_surjective (hf : Function.Surjective f) : valueGroup f = ⊤ := by
+  simp [valueGroup_def, valueMonoid_eq_closure, hf.range_eq]
+
+/-- The multiplicative isomorphism between `valueGroup f` and `Bˣ` when `f` is surjective -/
+def valueGroupEquivOfSurjective (hf : Function.Surjective f) : valueGroup f ≃* Bˣ :=
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/Range.lean]: Perhaps `...MulEquiv...`?

File: Mathlib/Algebra/GroupWithZero/Range.lean [hunk 2]
```diff
@@ -120,6 +121,32 @@ lemma mem_valueGroup {b : Bˣ} (hb : b.1 ∈ range f) : b ∈ valueGroup f := by
...
+  map_le_map_iff' {a b} := by simp
+
+section LinearOrderedCommGroupWithZero
+
+variable {B : Type*} [LinearOrderedCommGroupWithZero B] [FunLike F A B]
+  [MonoidWithZeroHomClass F A B] (f : F)
+
+/-- The multiplicative order isomorphism between `ValueGroup₀ f` and `B` when `f` is surjective. -/
+@[simps!]
+def valueGroupOrderIsoOfSurjective₀ (hf : Function.Surjective f) : ValueGroup₀ f ≃*o B :=
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/Range.lean]: This `def` should not take a term of `MonoidWithZeroHomClass` variable, I guess, but a hones `MonoidWithZeroHom`. The same applies to the above `def`'s, I imagine, but the git diff does not show me what the variables at that point are: can you double-check?

**Review by faenuccio — COMMENTED** [review]
Thanks, I've left a small comment concerning the variable of a `def`, but overall it LGTM. If you can take care of this, I'll be happy to give it another round of review.

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 3]
```diff
@@ -442,6 +442,27 @@ theorem exists_primeCompl_mul_eq_of_integer (x : K) (hv : v.valuation K x ≤ 1)
     rw [← (v.intValuation_eq_one_iff_mem_primeCompl d).mpr d.prop,
       ← valuation_of_algebraMap (K := K), ← valuation_of_algebraMap (K := K), ← map_mul, hnd]
 
+variable (K)
+
+open MonoidWithZeroHom ValueGroup₀
+
+/-- The order isomorphism between the value group of the `v`-adic valuation on `K` and `ℤᵐ⁰`. -/
+@[simps!]
+def valueGroupOrderIso₀ : ValueGroup₀ (v.valuation K) ≃*o ℤᵐ⁰ :=
```
Comment (mariainesdff) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:451]: I am not sure that we want to add this, since it is a special case of [Valuation.IsRankOneDiscrete.valueGroup₀_equiv_withZeroMulInt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Valuation/Discrete/RankOne.html#Valuation.IsRankOneDiscrete.valueGroup%E2%82%80_equiv_withZeroMulInt). (We could bundle the order in this more general isomorphism).

File: Mathlib/Algebra/GroupWithZero/Range.lean (hunk 2 above)
Comment (smmercuri) [reply Mathlib/Algebra/GroupWithZero/Range.lean]: It was `f : F` where `MonoidWithZeroHomClass F A B`. I've now changed it to an actual hom

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean (hunk 3 above)
Comment (smmercuri) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:451]: Ah so it is, thanks! I think this PR is no longer needed

Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:451]: I agree that this is probably no longer needed, but the work about removing the Class variable and leaving just a Hom was valuable.
